US08541421B2
2-Amino-5-methylbenzonitrile
5-Methyl-2-nitrobenzonitrile (1.92 g, 11.84 mmol) was added in portions to a stirred solution of SnCl2 (11.22 g, 59.2 mmol) in conc. HCl (12 mL) and EtOH (12 mL). The reaction temperature was maintained at 20-30° C. using an ice bath. The reaction mixture was then stirred at room temperature for 1 h and poured into an ice cold aqueous solution of NaOH (6N, app. 30 mL) to neutralize to pH7. The product was extracted into EtOAc, washed with brine, dried over MgSO4 and concentrated to provide the title product (1.56 g, 99%) as a yellow-brown solid. 1H NMR (400 MHz, DMSO-d6) δ2.21 (s, 3H), 5.79 (bs, 2H), 6.68-6.71 (d, 1H), 7.10-7.13 (dd, 1H), 7.15 (s, 1H). 13C NMR (DMSO-d6) δ20.13, 93.99, 116.12, 118.94, 125.38, 132.32, 135.76, 150.21. MS 133 (MH+).

reactant | 5-Methyl-2-nitrobenzonitrile | 11.84 mmol, 1.92 g | CC=1C=CC(=C(C#N)C1)[N+](=O)[O-] | C8H6N2O2
reactant | SnCl2 | 59.2 mmol, 11.22 g | Cl[Sn]Cl
reactant | NaOH | 6N, 30 mL | [OH-].[Na+]
solvent | HCl | 12 mL | Cl | ClH
solvent | EtOH | 12 mL | CCO | C2H6O
product | 2-Amino-5-methylbenzonitrile | 1.56 g, 99% | NC1=C(C#N)C=C(C=C1)C | C8H8N2
